US05342941
6-Bromo-3,4-dimethoxybenzaldehyde dimethylacetal and acetaldehyde are treated in the same manner as in Reference Example 3 to give 3,4-dimethoxy-6-(1-hydroxyethyl)benzaldehyde dimethylacetal as oil.

reactant | 6-Bromo-3,4-dimethoxybenzaldehyde dimethylacetal | COC(C1=CC(=C(C=C1Br)OC)OC)OC | C11H15BrO4
reactant | acetaldehyde | C(C)=O | C2H4O
product | 3,4-dimethoxy-6-(1-hydroxyethyl)benzaldehyde dimethylacetal | COC(C1=CC(=C(C=C1C(C)O)OC)OC)OC | C13H20O5
